US06872706B2
To a solution of isopropanol (0.12 g) in 2,4,6-trimethylpyridine (2 mL) was added triphosgene (0.022 g) at 0° C., and the mixture was stirred for 1 hour. Thereafter, 2-(4-methoxybenzyl)phenyl β-D-glucopyranoside (0.075 g) was added to the reaction mixture, and the mixture was stirred at room temperature overnight. To the reaction mixture was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with 10% aqueous citric acid solution and water, and dried over magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 2-(4-methoxybenzyl)-phenyl 6-O-isopropyloxycarbonyl-β-D-glucopyranoside (0.024 g).

reactant | isopropanol | 0.12 g | C(C)(C)O | C3H8O
reactant | triphosgene | 0.022 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-(4-methoxybenzyl)phenyl β-D-glucopyranoside | 0.075 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)OC | C20H24O7
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 2,4,6-trimethylpyridine | 2 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 2-(4-methoxybenzyl)-phenyl 6-O-isopropyloxycarbonyl-β-D-glucopyranoside | 0.024 g | C(C)(C)OC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)OC)O1)O)O)O | C24H30O9
